US04621901
A suspension of 5.1 g of propyl-triphenylphosphonium bromide in 80 ml of t-butyl methyl ether was treated within 5 minutes with 1.48 g of potassium t-butylate while gassing with argon at -10° C. and the mixture was stirred at room temperature for a further 60 minutes. Thereafter, the mixture was treated within 5 minutes at 0° C. with a solution of 2.0 g of [trans-4-(p-cyanophenyl)cyclohexyl]acetaldehyde in 25 ml of t-butyl methyl ether and the resulting mixture was stirred for a further 45 minutes at room temperature. The reaction mixture was subsequently poured into 100 ml of water and extracted three times with 100 ml of diethyl ether each time. The organic phases were washed twice with 100 ml of water each time, dried over magnesium sulphate and concentrated. The residue was dissolved in 20 ml of ethyl acetate and the solution was treated with 250 ml of petroleum ether. After leaving to stand for 10 minutes at -20° C. the precipitated triphenylphosphine oxide was filtered off and the filtrate was concentrated to dryness. Low-pressure chromatography (0.5 bar) of the yellowish, oily residue (3.33 g) on silica gel with ethyl acetate/petroleum ether (vol. 3:97) gave 2.1 g of p-[trans-4-(2-pentenyl)cyclohexyl]benzonitrile as a colourless oil containing 92.7% of p-[trans-2-(2Z-pentenyl)cyclohexyl]benzonitrile and 6.6% of p-[trans-4-(2E-pentenyl)cyclohexyl]benzonitrile. The material was reacted further without additional purification. If desired, however, this mixture of isomers can be separated by chromatography on silica gel coated with silver nitrate (as illustrated in paragraph (d)).

reactant | propyl-triphenylphosphonium bromide | 5.1 g | [Br-].C(CC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | [trans-4-(p-cyanophenyl)cyclohexyl]acetaldehyde | 2.0 g | C(#N)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC=O | C15H17NO
reactant | water | 100 ml | O | H2O
solvent | t-butyl methyl ether | 80 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 25 ml | COC(C)(C)C | C5H12O
product | p-[trans-4-(2-pentenyl)cyclohexyl]benzonitrile | 2.1 g | C(C=CCC)[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C18H23N
